US05435990
Preparation of N-(2-methoxy-5-nitrobenzyl)-1,4,7,10-tetraazacyclododecane
To a stirred chloroform solution (20 ml) containing 2.9 g of 1,4,7,10-tetraazacyclododecane (16.8 mmole) was added a chloroform solution (20 ml) containing 2.1 g of 2-methoxy-5-nitrobenzyl bromide (8.5 mmole) in one portion. After stirring at room temperature for three hours the reaction mixture was filtered and the filtrate concentrated (in vacuo) to give a residue which was chromatographed (silica, Solvent System 3). The monoalkylated product was isolated in 79 percent yield (MP=154°-156° C.), and characterized by:

reactant | 1,4,7,10-tetraazacyclododecane | 16.8 mmole, 2.9 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | 2-methoxy-5-nitrobenzyl bromide | 8.5 mmole, 2.1 g | COC1=C(CBr)C=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-methoxy-5-nitrobenzyl)-1,4,7,10-tetraazacyclododecane | 79 percent yield | COC1=C(CN2CCNCCNCCNCC2)C=C(C=C1)[N+](=O)[O-] | C16H27N5O3
